US07244730B2
(Step 1) 1-(tert-Butyl)-1,1-diphenylsilyl [(6-vinyl-3-pyridyl)methyl]ether
After dissolving 1-(tert-butyl)-1,1-diphenylsilyl [(6-chloro-3-pyridyl)methyl]ether (20 g, 52.3 mmol) in toluene (104 ml) and degassing the solution, tetrakis(triphenylphosphine)palladium (3.0 g, 2.6 mmol) and tributylvinyltin (16.5 ml, 56.5 mmol) were added under a nitrogen stream and the mixture was heated to reflux at 120° C. for 7 hours. The reaction mixture was then cooled to room temperature and concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (17.46 g) as a colorless oil. (89.3% yield)

reactant | 1-(tert-butyl)-1,1-diphenylsilyl [(6-chloro-3-pyridyl)methyl]ether | 52.3 mmol, 20 g | C(C)(C)(C)C1(CC=CC=C1)[SiH2]C([SiH2]C1=CC=CC=C1)(C=1C=NC(=CC1)Cl)OC([SiH2]C1(CC=CC=C1)C(C)(C)C)([SiH2]C1=CC=CC=C1)C=1C=NC(=CC1)Cl | C44H54Cl2N2OSi4
reactant | tributylvinyltin | 56.5 mmol, 16.5 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | toluene | 104 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 2.6 mmol, 3.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(tert-Butyl)-1,1-diphenylsilyl [(6-vinyl-3-pyridyl)methyl]ether | 17.46 g, 89.3% yield | C(C)(C)(C)C1(CC=CC=C1)[SiH2]C([SiH2]C1=CC=CC=C1)(C=1C=NC(=CC1)C=C)OC([SiH2]C1(CC=CC=C1)C(C)(C)C)([SiH2]C1=CC=CC=C1)C=1C=NC(=CC1)C=C | C48H60N2OSi4
